US05004745
The 3-ethoxycarbonyl-7,9-difluoro-1-methyl-4-oxo-8-(perhydro-1,4-diazepin-1-yl)-1,4-dihydrobenzo[b][1,8]naphthyridine was prepared under the conditions of Example 3, but starting from 2 g of 3-ethoxycarbonyl-7,8,9-trifluoro-1-methyl-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine and 2 g of hexahydro-1,4-diazepine. 2 g of 3-ethoxycarbonyl-7,9-difluoro-1-methyl-4-oxo-8-(perhydro-1,4-diazepin-1-yl)-1,4-dihydro-benzo[b][1,8]naphthyridine are obtained in the form of a yellow solid melting at 226° C.

reactant | 3-ethoxycarbonyl-7,8,9-trifluoro-1-methyl-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine | 2 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C)C(=C(C(=C3)F)F)F)=O | C16H11F3N2O3
reactant | hexahydro-1,4-diazepine | 2 g | N1CCNCCC1 | C5H12N2
product | 3-ethoxycarbonyl-7,9-difluoro-1-methyl-4-oxo-8-(perhydro-1,4-diazepin-1-yl)-1,4-dihydro-benzo[b][1,8]naphthyridine | 2 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C)C(=C(C(=C3)F)N3CCNCCC3)F)=O | C21H22F2N4O3
